US05025013
N-Benzyl-4-(4-fluoroanilino)piperidine (2.8 g), dissolved in trichloromethane (30 cc), is stirred for 18 hours with 4-fluorobenzoic acid chloride (2 cc) and in the presence of triethylamine (5 cc). The reaction mixture is then washed twice with sodium hydroxide solution (3N) (30 cc) thereafter with water (30 cc). The organic phase is then dried over magnesium sulphate and thereafter concentrated under reduced pressure (5.2 kPa). By the addition of a 3.4N solution (5 cc) of hydrochloric acid in isopropanol and recrystallization in acetone/ethanol mixture (50:50 by volume) (100 cc), N-(1-benzyl-4-piperidyl)-N-(4-fluorophenyl)-4-fluorobenzamide hydrochloride (3.2 g) is obtained in the form of a white powder, m.p. 210° C.

reactant | N-Benzyl-4-(4-fluoroanilino)piperidine | 2.8 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=C1)F | C18H21FN2
reactant | 4-fluorobenzoic acid chloride | 2 cc | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | triethylamine | 5 cc | C(C)N(CC)CC | C6H15N
solvent | trichloromethane | 30 cc | ClC(Cl)Cl | CHCl3
product | N-(1-benzyl-4-piperidyl)-N-(4-fluorophenyl)-4-fluorobenzamide hydrochloride | 3.2 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)N(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | InChI=1S/C25H24F2N2O.ClH/c26-21-8-6-20(7-9-21)25(30)29(23-12-10-22(27)11-13-23)24-14-16-28(17-15-24)18-19-4-2-1-3-5-19;/h1-13,24H,14-18H2;1H
